US07504412B2
4-[5-(Difluoromethoxy)-2-pyridyl]benzenecarboxylic acid
Operations similar to those of Production Example 14 were conducted using 4-carboxyphenylboronic acid and 2-bromo-5-(difluoromethoxy)pyridine, to provide the title compound as white solid.

reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 2-bromo-5-(difluoromethoxy)pyridine | BrC1=NC=C(C=C1)OC(F)F | C6H4BrF2NO
product | 4-[5-(Difluoromethoxy)-2-pyridyl]benzenecarboxylic acid | FC(OC=1C=CC(=NC1)C1=CC=C(C=C1)C(=O)O)F | C13H9F2NO3
